US07132456B2
3′-(2-Phenoxy-ethylsulfanylmethyl)-biphenyl-2-carboxylic acid (4-dimethylamino-butyl)-amide was synthesized as described for 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-3-carboxylic acid (3-dimethylamino-propyl)-amide. 3′-(2-Phenoxy-ethylsulfanylmethyl)-biphenyl-2-carboxylic acid (0.95 g, 2.61 mmol, 1 eq.) in anhydrous THF was treated with 1,1-carbonyldiimidazole (0.43 g, 2.66 mmol, 1.02 eq.) and 4-dimethylaminobutylamine (0.36 g, 3.13 mmol, 1.2 eq.) as described. When complete, the reaction was worked up as described leaving a yellow oil.

reactant | 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-3-carboxylic acid (3-dimethylamino-propyl)-amide | CN(CCCNC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)CSCCOC1=CC=CC=C1)C | C27H32N2O2S
reactant | 3′-(2-Phenoxy-ethylsulfanylmethyl)-biphenyl-2-carboxylic acid | 2.61 mmol, 0.95 g, 1 eq. | O(C1=CC=CC=C1)CCSCC=1C=C(C=CC1)C=1C(=CC=CC1)C(=O)O | C22H20O3S
reactant | 4-dimethylaminobutylamine | 3.13 mmol, 0.36 g, 1.2 eq. | CN(CCCCN)C | C6H16N2
solvent | THF | C1CCOC1 | C4H8O
product | 3′-(2-Phenoxy-ethylsulfanylmethyl)-biphenyl-2-carboxylic acid (4-dimethylamino-butyl)-amide | CN(CCCCNC(=O)C=1C(=CC=CC1)C1=CC(=CC=C1)CSCCOC1=CC=CC=C1)C | C28H34N2O2S
